US08809339B2
3-(3-(2-(5-(3,4-dimethylphenyl)pyrimidin-2-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-(2-(5-(3,4-dimethylphenyl)pyrimidin-2-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propano ate (340 mg, 0.5 mmol, 1.00 equiv) in dichloromethane (18 mL), and trifluoroacetic acid (8.9 mL). The resulting solution was stirred for ca. 5.5 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by HPLC reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 25.3 mg (8%) of a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.35 (s, 1H), 11.26 (s, 1H), 8.72 (s, 2H), 8.25 (d, J=9 Hz, 1H), 7.86 (s, 1H), 7.75 (d, J=7.5 Hz, 1H), 7.56˜7.741 (m, 3H), 7.37 (s, 1H), 7.28˜7.13 (m, 3H), 4.34 (s, 1H), 3.84 (s, 2H), 3.31 (m, 4H), 2.60˜2.55 (m, 2H), 2.32 (s, 3H), 2.16 (s, 3H), 1.71˜1.58 (m, 6H). MS (ES, m/z): 624 [M+H]+.

reactant | tert-butyl 3-(3-(2-(5-(3,4-dimethylphenyl)pyrimidin-2-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propano ate | 0.5 mmol, 340 mg, 1.00 equiv | CC=1C=C(C=CC1C)C=1C=NC(=NC1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1 | C39H45N5O4S
reactant | trifluoroacetic acid | 8.9 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | 3-(3-(2-(5-(3,4-dimethylphenyl)pyrimidin-2-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoic acid | 25.3 mg, 8% | CC=1C=C(C=CC1C)C=1C=NC(=NC1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1 | C35H37N5O4S
